US05753671
Methylbromoacetate (0.17 ml, 1.77 mmol) was added dropwise to a solution of 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidine (0.50 g, 1.61 mmol) and triethylamine (0.45 ml, 3.22 mmol) in THF (15 ml) under an inert atmosphere. The reaction was left to stir for 18 hours. THF was removed under reduced pressure and the product purified by column chromatography on silica gel, eluting with 5% methanol/DCM. Product containing fractions were combined and solvent removed under reduced pressure to yield methyl-[4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidin-1-yl]acetate as an orange solid (550 mg, 90%).

reactant | Methylbromoacetate | 1.77 mmol, 0.17 ml | COC(CBr)=O | C3H5BrO2
reactant | 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidine | 1.61 mmol, 0.50 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C19H19ClN2
reactant | triethylamine | 3.22 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl-[4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidin-1-yl]acetate | 550 mg, 90% | COC(CN1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)=O | C22H23ClN2O2
